US07786132B2
(ii) N-(4-Fluorophenyl)-N-methylthiazol-2-amine
A solution of 2.0 g (11 mmol) of 1-(4-fluorophenyl)-1-methylthiourea in 20 mL of EtOH was treated with 4.1 mL (33 mmol) of a 50% (w/v) aqueous solution of chloroacetaldehyde and heated at reflux for 18 h. The solvent was removed in vacuo and the residue purified by flash chromatography eluting with a linear gradient of 10% EtOAc in hexane to 100% EtOAc to deliver the title compound. MS (M+H)+ 209.

reactant | 1-(4-fluorophenyl)-1-methylthiourea | 11 mmol, 2.0 g | FC1=CC=C(C=C1)N(C(=S)N)C | C8H9FN2S
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | EtOH | 20 mL | CCO | C2H6O
product | N-(4-Fluorophenyl)-N-methylthiazol-2-amine | FC1=CC=C(C=C1)N(C=1SC=CN1)C | C10H9FN2S
